US07291616B2
A mixture of 2-chloro-5-nitro-benzoyl chloride (502 mg, 2.3 mmol), methylamine hydrochloride (213 mg, 3.1 mmol), dichloromethane (10 ml), and triethylamine (0.84 ml, 6.0 mmol) was stirred for 60 hours. The mixture was treated with ethyl acetate (25 ml). The solution was washed with a mixture of saturated aqueous sodium chloride solution and 1 M hydrochloric acid (1:1, 2×20 ml), washed with aqueous sodium carbonate solution (1 M, 20 ml), dried over sodium sulfate, and concentrated under reduced pressure to provide 2-chloro-N-methyl-5-nitro-benzamide.

reactant | 2-chloro-5-nitro-benzoyl chloride | 2.3 mmol, 502 mg | ClC1=C(C(=O)Cl)C=C(C=C1)[N+](=O)[O-] | C7H3Cl2NO3
reactant | methylamine hydrochloride | 3.1 mmol, 213 mg | Cl.CN
reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
reactant | triethylamine | 6.0 mmol, 0.84 ml | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | 2-chloro-N-methyl-5-nitro-benzamide | ClC1=C(C(=O)NC)C=C(C=C1)[N+](=O)[O-] | C8H7ClN2O3
